US06303608B1
A mixture of 3.5 g (0.02 mol) of 5-fluoro-2-(piperazin-1-yl)pyrimidine, 6.04 g (0.025 mol) of 1-(4-chlorobutyl)-4,5-dichloro-2-methyl-1H-imidazole and 4.14 g (0.03 mol) of potassium carbonate in 200 ml of dimethylformamide is maintained at reflux for 12 hours. The mixture is subsequently evaporated to dryness and the resulting crude product is redissolved in chloroform and washed repeatedly with water. The organic phase is dried and evaporated, and then the resulting crude product is purified by chromatography on a column of silica gel. 6.4 g (83% yield) of 2-{4-[4-(4,5-dichloro-2-methylimidazol-1-yl)butyl]-piperazin-1-yl}-5-fluoropyrimidine are obtained in the form of an oil.

reactant | 5-fluoro-2-(piperazin-1-yl)pyrimidine | 0.02 mol, 3.5 g | FC=1C=NC(=NC1)N1CCNCC1 | C8H11FN4
reactant | 1-(4-chlorobutyl)-4,5-dichloro-2-methyl-1H-imidazole | 0.025 mol, 6.04 g | ClCCCCN1C(=NC(=C1Cl)Cl)C | C8H11Cl3N2
reactant | potassium carbonate | 0.03 mol, 4.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-{4-[4-(4,5-dichloro-2-methylimidazol-1-yl)butyl]-piperazin-1-yl}-5-fluoropyrimidine | 6.4 g, 83% yield | ClC=1N=C(N(C1Cl)CCCCN1CCN(CC1)C1=NC=C(C=N1)F)C | C16H21Cl2FN6
